US06525077B2
Chloromethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)-carbamate
A solution of chloromethyl chloroformate (2.84 g) in dichloromethane (10 ml) was added dropwise with stirring to an ice-cold solution of 3-(N-tert-butoxycarbonylamino)-propylamine (3.49 g) and diisopropylethylamine (3.10 g) in dichloromethane (30 ml). After stirring for a further 3 hours at room temperature, the mixture was extracted with ice-cold 0.5 M hydrochloric acid followed by water and aqueous sodium bicarbonate. Drying over magnesium sulfate and evaporation in vacuo gave the title compound as colourless crystals.

reactant | chloromethyl chloroformate | 2.84 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | 3-(N-tert-butoxycarbonylamino)-propylamine | 3.49 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | diisopropylethylamine | 3.10 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Chloromethyl N-(3-(N-tert-butoxycarbonylamino)-propyl)-carbamate | C(C)(C)(C)OC(=O)NCCCNC(OCCl)=O | C10H19ClN2O4
